US04588788
3-Phenoxy-1,2-propandiol Bis(AOnPAte)
A solution of 150.2 g. phenyl glycidyl ether (1.0 eq.), 200.0 g. AOnPA (1.15 eq., of Example 1), 200.0 g. toluene, 4.0 g. tetrapropylammonium bromide (0.015 eq.), and 1.0 g. phenothiazine was heated at reflux for 6.0 hours. Conversion, measured by residual oxirane titer, was ca. 93%. Upon cooling, the reactor was charged with 186.0 g. of AOnPA (1.07 eq.), 150.0 g. toluene, and 10.0 g. p-toluenesulfonic acid monohydrate (0.05 eq.). The mixture was again heated at reflux. After 6.0 hrs., conversion was 90%. The product was extracted with ether and purified by washing. It had an acrylate titer of 3.8 meq./g. (theory: 4.17 meq./g.) and Brookfield viscosity of 230 centipoise at 25° C.

reactant | phenyl glycidyl ether | 1.0 eq. | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | oxirane | O1CC1 | C2H4O
reactant | p-toluenesulfonic acid monohydrate | 0.05 eq. | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | tetrapropylammonium bromide | 0.015 eq. | [Br-].C(CC)[N+](CCC)(CCC)CCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Phenoxy-1,2-propandiol | O(C1=CC=CC=C1)CC(CO)O | C9H12O3
